US08497274B2
(iv) Production of N-{3-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]phenyl}-2,2,2-trifluoroacetamide
Potassium thiocyanate (2.89 g, 29.8 mmol) was suspended in acetic acid (20 mL), and the mixture was stirred at room temperature for 10 min. N-[3-(4-Amino-2-cyanophenoxy)phenyl]-2,2,2-trifluoroacetamide (2.4 g, 7.47 mmol) was added to the obtained solution, and the mixture was further stirred at room temperature for 10 min. A solution of bromine (1.31 g, 8.21 mmol) in acetic acid (10 mL) was slowly added dropwise to the obtained solution. After the completion of the dropwise addition, the mixture was stirred at room temperature for 12 hr. The resulting yellow insoluble material was filtered off and washed with acetic acid. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (200 mL)/tetrahydrofuran (40 mL), washed successively with saturated aqueous sodium hydrogen carbonate solution (240 mL×2) and saturated brine (240 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was slurry washed with diisopropyl ether to give the title compound (1.68 g, 59%) as a yellow powder.

reactant | Potassium thiocyanate | 29.8 mmol, 2.89 g | [S-]C#N.[K+]
reactant | N-[3-(4-Amino-2-cyanophenoxy)phenyl]-2,2,2-trifluoroacetamide | 7.47 mmol, 2.4 g | NC1=CC(=C(OC=2C=C(C=CC2)NC(C(F)(F)F)=O)C=C1)C#N | C15H10F3N3O2
reactant | bromine | 8.21 mmol, 1.31 g | BrBr | Br2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-{3-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]phenyl}-2,2,2-trifluoroacetamide | 1.68 g, 59% | NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=C(C=CC2)NC(C(F)(F)F)=O | C16H9F3N4O2S
